US09056852B2
Lithium diisopropylamide (2 M in tetrahydrofuran, 2.71 mL, 5.42 mmol) was added to a mixture of ethyl isobutyrate (600 mg, 5.17 mmol) in tetrahydrofuran (60 mL) at −78° C. and stirred at this temperature for 1 hour. 3-Methoxybenzyl chloride (1.15 g, 7.34 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for another 1 hour and then at room temperature overnight. The mixture was quenched by water and extracted with ethyl acetate. The combined organic fractions were washed with water, dried over sodium sulfate and concentrated under vacuum to give ethyl-3-(3-methoxyphenyl)-2,2-dimethylpropanoate (1.3 g) as a yellow oil, which was used in the next step without further purification.

reactant | Lithium diisopropylamide | 5.42 mmol, 2 M, 2.71 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl isobutyrate | 5.17 mmol, 600 mg | C(C(C)C)(=O)OCC | C6H12O2
reactant | 3-Methoxybenzyl chloride | 7.34 mmol, 1.15 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | ethyl-3-(3-methoxyphenyl)-2,2-dimethylpropanoate | 1.3 g | C(C)OC(C(CC1=CC(=CC=C1)OC)(C)C)=O | C14H20O3
